US04603011
N-Cbz-2,2-Dimethyl aziridine and di-t-butylmethanol are dissolved in CH2Cl2 at 0° C. under argon. Boron trifluoride etherate is added and the flask is stirred overnight. The contents are poured into saturated NaHCO3 and extracted with ethyl acetate. The organic layer is dried over MgSO4 and evaporated to yield N-Cbz-2-amino-2-methyl-1-[di-(t-butyl)-methoxy]propane.

reactant | N-Cbz-2,2-Dimethyl aziridine | C(=O)(OCC1=CC=CC=C1)N1C(C1)(C)C | C12H15NO2
reactant | di-t-butylmethanol | C(C)(C)(C)C(O)C(C)(C)C | C9H20O
reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Cbz-2-amino-2-methyl-1-[di-(t-butyl)-methoxy]propane | C(=O)(OCC1=CC=CC=C1)NC(COC(C(C)(C)C)C(C)(C)C)(C)C | C21H35NO3
